US08648099B2
b) 5-Cyclohexyl-6-(2,2,2-trifluoro-ethoxy)-3-pyridinecarboxylic acid methyl ester
5-Cyclohex-1-enyl-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid methyl ester (163 mg, 517 μmol) was combined with ethanol (5 mL) to give a colorless solution. Palladium (10% on charcoal, 16.3 mg, 517 μmol) was added and the suspension was evacuated and flushed with hydrogen 3 times and stirred for 1.5 h at ambient temperature. Afterwards the reaction mixture was filtered through Celite and concentrated in vacuo to give the title compound (95 mg, 58%) as grey solid; MS (EI) 318.1 (M+H)+.

reactant | 5-Cyclohex-1-enyl-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid methyl ester | 517 μmol, 163 mg | COC(=O)C=1C=NC(=C(C1)C1=CCCCC1)OCC(F)(F)F | C15H16F3NO3
catalyst | Palladium | 517 μmol, 16.3 mg | [Pd] | Pd
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 5-Cyclohexyl-6-(2,2,2-trifluoro-ethoxy)-3-pyridinecarboxylic acid methyl ester | 95 mg, 58% | COC(=O)C=1C=NC(=C(C1)C1CCCCC1)OCC(F)(F)F | C15H18F3NO3
